US05972951
4'-(5-Methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxylic acid
The title compound was prepared from 1-bromo-4-(5-methyl-1,2,4-oxadiazol-3-yl)benzene [EP 0533268A1] (0.58 g) and 4-boronobenzoic acid (0.4 g) as described in Description 11 as a white solid (0.64 g, 97%).

reactant | 1-bromo-4-(5-methyl-1,2,4-oxadiazol-3-yl)benzene | 0.58 g | BrC1=CC=C(C=C1)C1=NOC(=N1)C | C9H7BrN2O
reactant | 4-boronobenzoic acid | 0.4 g | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
product | 4'-(5-Methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxylic acid | CC1=NC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C16H12N2O3
